US03991194
5,5-Dimethyl-8-(3-methyl-2-octyl)-10-[4-(piperidino)butyryloxy]-2-(2-propynyl)-1,2,3,4-tetrahydro- 5H-[1]benzopyrano[3,4-d] pyridine hydrochloride (SP-106)
The preparation of this compound was repeated by combining equimolar quantities of 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano [3,4-d]pyridine, dicyclohexylcarbodiimide and γ-piperidinobutyric acid hydrochloride in methylene chloride. After stirring for about 16 hours at room temperature, the reaction mixture was cooled, and the byproduct of dicyclohexylurea was removed by suction filtration. The mother liquor was evaporated to give a light yellow residue which was dissolved in a methylene chloride/cyclohexane mixture and stored in the cold for 16 hours. A small quantity of additional dicyclohexylurea was removed by filtration, and the solvents were distilled off using a rotary evaporator. The residue which remained was dried in vacuo and crystallized from a mixture of methylene chloride and diethyl ether to give a colorless solid, m.p. 108°-111° C. Thin layer chromatography (10% MeOH/CHCl3) indicated the compound to be pure; the nuclear magnetic resonance and infrared spectra of the material were consistent with the desired product.

reactant | 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano [3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C2=C1CCN(C2)CC#C)C | C26H37NO2
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | γ-piperidinobutyric acid hydrochloride | Cl.N1(CCCCC1)CCCC(=O)O
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride cyclohexane | C(Cl)Cl.C1CCCCC1
product | 5,5-Dimethyl-8-(3-methyl-2-octyl)-10-[4-(piperidino)butyryloxy]-2-(2-propynyl)-1,2,3,4-tetrahydro- 5H-[1]benzopyrano[3,4-d] pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)OC(CCCN2CCCCC2)=O)C2=C1CCN(C2)CC#C)C | InChI=1S/C35H52N2O3.ClH/c1-7-9-11-15-26(3)27(4)28-23-31(39-33(38)16-14-21-36-19-12-10-13-20-36)34-29-25-37(18-8-2)22-17-30(29)35(5,6)40-32(34)24-28;/h2,23-24,26-27H,7,9-22,25H2,1,3-6H3;1H
